US08895733B2
(5-(3-{4-Amino-6-[methyl(phenyl)amino]-1,3,5-triazin-2-yl}-1,2,4-oxadiazol-5-yl)-N-(2,2,2-trifluoroethyl)pyridine-2-carboxamide)
To a suspension of 2,2,2-trifluoro-ethylamine (39 mg, 395 μmol) in anhydrous toluene (3 mL) was added bis(trimethylaluminum)-1,4-diazabicyclo[2.2.2]-octane (DABAL-Me3) (101 mg, 395 μmol). The resulting solution was stirred at 40 C for 1 h. Methyl 5-(3-{4-amino-6-[methyl(phenyl)amino]-1,3,5-triazin-2-yl}-1,2,4-oxadiazol-5-yl)pyridine-2-carboxylate (prepared in an analogous manner to Example 279, 80 mg, 197 μmol) was then added to the solution and the reaction mixture was stirred for a further 16 h at 80 C. The reaction mixture was quenched with 1M HCl (1 mL), evaporated to dryness and re-dissolved in DCM. The organic solution was washed with water (3×25 mL), dried over magnesium sulfate, evaporated and purified by silica chromatography (50:50 EtOAc:heptane) to afford the title compound as a white solid (40 mg, 43%).

reactant | 2,2,2-trifluoro-ethylamine | 395 μmol, 39 mg | FC(CN)(F)F | C2H4F3N
reactant | Methyl 5-(3-{4-amino-6-[methyl(phenyl)amino]-1,3,5-triazin-2-yl}-1,2,4-oxadiazol-5-yl)pyridine-2-carboxylate | NC1=NC(=NC(=N1)N(C1=CC=CC=C1)C)C1=NOC(=N1)C=1C=CC(=NC1)C(=O)OC | C19H16N8O3
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | 5-(3-{4-Amino-6-[methyl(phenyl)amino]-1,3,5-triazin-2-yl}-1,2,4-oxadiazol-5-yl)-N-(2,2,2-trifluoroethyl)pyridine-2-carboxamide | 40 mg, 43% | NC1=NC(=NC(=N1)N(C1=CC=CC=C1)C)C1=NOC(=N1)C=1C=CC(=NC1)C(=O)NCC(F)(F)F | C20H16F3N9O2
